US08557830B2
A mixture of 1-(4-methoxybenzyl)-4-(2-fluoropyridin-3-yl)-1H-pyrazolo[3,4-d]pyrimidine (150 mg, 447 mmol) and 4-(8-amino-7-methylquinazolin-4-ylamino)benzonitrile (135 mg, 492 mmol) in THF (3 ml) was sonicated until the solid became a fine powder. To this mixture was added lithium bis(trimethylsilyl)amide, 1.0 M solution in THF) (1476 μl, 1476 mmol) slowly. The mixture was stirred at it for 4 hr (LCMS: some SM) and then heated in a microwave synthesizer at 60° C. for 20 min The mixture was poured into MeOH (15 ml) and AcOH (0.5 ml) was added and then NH3/MeOH (2 M, 20 mL) was added. Solvent was removed in vacuo. The product was purified by flash chromatography eluting with MeOH/DCM (1-5%) to give 4-(8-(3-(1-(4-methoxybenzyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl)pyridin-2-ylamino)-7-methylquinazolin-4-ylamino)benzonitrile. MS Found (ESI pos. ion) m/z 591 (M+H+).

reactant | 1-(4-methoxybenzyl)-4-(2-fluoropyridin-3-yl)-1H-pyrazolo[3,4-d]pyrimidine | 447 mmol, 150 mg | COC1=CC=C(CN2N=CC=3C2=NC=NC3C=3C(=NC=CC3)F)C=C1 | C18H14FN5O
reactant | 4-(8-amino-7-methylquinazolin-4-ylamino)benzonitrile | 492 mmol, 135 mg | NC=1C(=CC=C2C(=NC=NC12)NC1=CC=C(C#N)C=C1)C | C16H13N5
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | NH3 MeOH | 2 M, 20 mL | N.CO
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | AcOH | 0.5 ml | CC(=O)O | C2H4O2
solvent | MeOH | 15 ml | CO | CH4O
product | 4-(8-(3-(1-(4-methoxybenzyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl)pyridin-2-ylamino)-7-methylquinazolin-4-ylamino)benzonitrile | COC1=CC=C(CN2N=CC=3C2=NC=NC3C=3C(=NC=CC3)NC=3C(=CC=C2C(=NC=NC32)NC3=CC=C(C#N)C=C3)C)C=C1 | C34H26N10O
